US05288701
3,3-Dimethyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-4-en-2-one
To a rapidly stirred mixture of 400 g of NaOH, 400 g of H2O and 400 ml of toluene are added 8 g of tricaprylmethylammonium chloride (Aliquat 336), then 70 g of 3-methyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-3-en-2-one (0.34 moles) at room temperature. At the end of the addition methyl chloride is injected over~20 hours. The temperature reaches 30° C. The reaction is monitored by GC. After 20 hours the alkylation is finished and the reaction mass is poured into ice. The resulting mixture is extracted with ether. The organic phase is washed with H2O and the solvents are removed by evaporation. The distillation of the crude product using a Widmer column leads to 38 g of pure ketone (purity: 96%, GC).

reactant | NaOH | 400 g | [OH-].[Na+]
reactant | H2O | 400 g | O | H2O
reactant | 3-methyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-3-en-2-one | 0.34 moles, 70 g | CC(C(C)=O)=CCC1C(C(CC1)C)(C)C | C14H24O
reactant | methyl chloride | CCl | CH3Cl
catalyst | tricaprylmethylammonium chloride | 8 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3,3-Dimethyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-4-en-2-one | CC(C(C)=O)(C=CC1C(C(CC1)C)(C)C)C | C15H26O
